US06716851B2
4-(3,4-Methylenedioxyanilino)-2-phenyl-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-phenyl-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 3,4-methylenedioxyaniline (40 mg, 0.290 mmol) similar to Example 77 and isolated as a tan solid (16 mg, 23%). 1H NMR (CDCl3): 8.44-8.40 (m, 2H), 7.50-7.45 (m, 3H), 7.02 (s, 1H), 6.91 (s, 1H), 6.85 (d, J=8.1 Hz, 1H), 6.78 (dd, J=2.0, 8.3 Hz, 1H), 6.71 (s, 1H), 6.03 (s, 2H).

reactant | 4-chloro-2-phenyl-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=CC=CC=C1 | C11H6ClF3N2
reactant | 3,4-methylenedioxyaniline | 0.290 mmol, 40 mg | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
product | 4-(3,4-Methylenedioxyanilino)-2-phenyl-6-(trifluoromethyl)pyrimidine | C1OC=2C=C(NC3=NC(=NC(=C3)C(F)(F)F)C3=CC=CC=C3)C=CC2O1 | C18H12F3N3O2
